US07858640B2
[8-chloro-3-(4-methanesulfonylbenzyl)-4-methyl-2-oxo-1,2-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of 8-chloro-5-hydroxy-3-(4-methanesulfonylbenzyl)-4-methyl-1H-quinolin-2-one (0.20 g), N,N-dimethylformamide (4.0 mL), potassium carbonate (0.091 g) and bromoacetic acid methyl ester (0.079 g) was stirred at room temperature for 1 hour. The mixture was diluted with water (20 mL) and the pH adjusted to 4 by the addition of glacial acetic acid. The resulting precipitate was collected by filtration and purified by column chromatography on silica gel, eluting with a mixture of dichloromethane and ethyl acetate (1:0 to 1:1 by volume) to afford title compound as a white solid, 0.14 g.

reactant | 8-chloro-5-hydroxy-3-(4-methanesulfonylbenzyl)-4-methyl-1H-quinolin-2-one | 0.20 g | ClC=1C=CC(=C2C(=C(C(NC12)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C)O | C18H16ClNO4S
reactant | N,N-dimethylformamide | 4.0 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.091 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetic acid methyl ester | 0.079 g | COC(CBr)=O | C3H5BrO2
solvent | water | 20 mL | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | [8-chloro-3-(4-methanesulfonylbenzyl)-4-methyl-2-oxo-1,2-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(=C(C(NC2=C(C=C1)Cl)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C)=O | C21H20ClNO6S
